US05177217
1-Benzyl 3 (S)-[2 (S)-(tert-butoxycarbonylamino)propionylamino]pyrrolidine (21.3 g) was dissolved in methanol (250 mL), and hydrogenated over 20% palladium hydroxide on charcoal, 50% water wet (5.0 g) at 50 psig and 25° to 40° C. until the uptake of hydrogen ceased. The reaction was then filtered through celite to remove the catalyst and the residue rinsed with methanol (100 mL) and the combined filtrates concentrated under vacuum to give 3-(S)-[2-(S) -(tert-butoxycarbonylamino)propionylamino]-pyrrolidine (14.6 g) as a colorless oil which crystallized on standing: HPLC: 99% S,S isomer. A portion was recrystallized from methyl tert-butyl ether: mp 137°-138° C.

reactant | 1-Benzyl 3 (S)-[2 (S)-(tert-butoxycarbonylamino)propionylamino]pyrrolidine | 21.3 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC([C@H](C)NC(=O)OC(C)(C)C)=O | C19H29N3O3
reactant | water | 5.0 g | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 mL | CO | CH4O
catalyst | palladium hydroxide on charcoal | [OH-].[OH-].[Pd+2]
product | 3-(S)-[2-(S) -(tert-butoxycarbonylamino)propionylamino]-pyrrolidine | 14.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H]1CNCC1)C | C12H23N3O3
